US06248739B1
N-(4-Chlorobenzyl)-8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of ethyl 8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylate from Preparation No. 13 (15.8 g) in p-chlorobenzylarnine (15.4 mL) is warmed to 190° C. The mixture is then cooled to room temperature, and hexane is added. The resulting precipitate is collected by filtration to give the title compound as a solid. An analytical sample is prepared by recrystallization from EtOH.

reactant | ethyl 8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylate | FC=1C=C(C=C2C(C(=CN(C12)C)C(=O)OCC)=O)I | C13H11FINO3
reactant | hexane | CCCCCC | C6H14
reactant | p-chlorobenzylarnine | 15.4 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)I)F)C)C=C1 | C18H13ClFIN2O2
